US20010006969A1
4-Acetylamino-2-allylamino-6-nitroquinazoline
300 mg (1.22 mmol) of 2-allylamino-4-amino-6-nitroquinazoline was dissolved in 5 ml of THF, and then 5.0 g (29.38 mmol) of acetic anhydride and 30 mg (0.37 mmol) of sodium acetate were added thereto, followed by stirring at room temperature for 12 hours. The reaction solution was neutralized with a 1N aqueous sodium hydroxide solution. Crystals thus precipitated were filtered, followed by washing with water and drying to give 150 mg (42.7%) of the title compound.

reactant | 2-allylamino-4-amino-6-nitroquinazoline | 1.22 mmol, 300 mg | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)N)[N+](=O)[O-] | C11H11N5O2
reactant | acetic anhydride | 29.38 mmol, 5.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.37 mmol, 30 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Acetylamino-2-allylamino-6-nitroquinazoline | 150 mg, 42.7% | C(C)(=O)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NCC=C | C13H13N5O3
